US07528142B2
6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine
A solution of 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine (130 g, 389 mmol) in MeOH (5.2 L) was cooled to 0° C. A solution of oxone (526 g, 855 mmol) in H2O (5.2 L) was slowly added to the slurry keeping the temperature below 5° C. After addition the reaction was allowed to warm to room temperature overnight. A 10% solution of NaHSO3 (325 ml) and a 10% solution of K2CO3 (2.6 L) was then added to neutralize the reaction mixture, the solution filtered and the filter cake washed with H2O (3.3 L). The solid was slurried in H2O (2.6 L), the solution filtered and the filter cake washed with H2O (3.3 L). The solid was dried under vacuum (72.3 g, 51%). 1H NMR (DMSO): 0.47 (2H, m), 0.60 (2H, m), 1.43-1.46 (1H, m), 2.20 (3H, s), 3.25 (3H, s), 3.97-4.11 (4H, m), 5.93 (1H, br s), 6.47 (1H, br s). 9.88 (1H, s), 12.01 (1H, br s). ES+ 367

reactant | 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylthio)pyrimidin-4-amine | 389 mmol, 130 g | C1(CC1)C1(CN(C1)C1=CC(=NC(=N1)SC)NC1=CC(=NN1)C)F | C15H19FN6S
reactant | oxone | 855 mmol, 526 g | OOS(=O)[O-].[K+]
reactant | NaHSO3 | 325 ml | OS(=O)[O-].[Na+]
reactant | K2CO3 | 2.6 L | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5.2 L | CO | CH4O
solvent | H2O | 5.2 L | O | H2O
product | 6-(3-cyclopropyl-3-fluoroazetidin-1-yl)-N-(3-methyl-1H-pyrazol-5-yl)-2-(methylsulfonyl)pyrimidin-4-amine | C1(CC1)C1(CN(C1)C1=CC(=NC(=N1)S(=O)(=O)C)NC1=CC(=NN1)C)F | C15H19FN6O2S
